US08258144B2
Benzyl 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidin-4-ylcarbamate
The titled compound was synthesized analogously as compound 1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone, by using benzyl piperidin-4-ylcarbamate. MS 548.4 (M+H); UV 215.8, 258.8, 279.8 nm.

reactant | 1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | NCC1CCN(CC1)C1=NC(=NC=C1F)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C22H30FN7O
reactant | benzyl piperidin-4-ylcarbamate | N1CCC(CC1)NC(OCC1=CC=CC=C1)=O | C13H18N2O2
product | Benzyl 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidin-4-ylcarbamate | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CCC(CC1)NC(OCC1=CC=CC=C1)=O)F | C29H34FN7O3
